US07223788B2
1-Butyl-1H-indole-5-carboxylic acid
Sodium hydride (50% in oil, 1.4 g) was added to methyl 1H-indole-5-carboxylate (5.0 g) in DMF (100 ml) and, after gas evolution ceased, bromobutane (3.9 g) was added. After 12 hours, the reaction solution was diluted with ethyl acetate and washed three times with water. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel (mobile phase ethyl acetate/heptane 1:6). The resulting ester was dissolved in methanol (10 ml) and boiled under reflux with sodium hydroxide (0.6 g ) in water (10 ml) for 12 hours. The mixture was diluted with water and acidified with hydrochloric acid, followed by extraction with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. This resulted in the product with the molecular weight of 217.27 (C13H15NO2); MS (ESI): 218 (M+H+).

reactant | Sodium hydride | 1.4 g | [H-].[Na+]
reactant | methyl 1H-indole-5-carboxylate | 5.0 g | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | bromobutane | 3.9 g | BrCCCC | C4H9Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Butyl-1H-indole-5-carboxylic acid | C(CCC)N1C=CC2=CC(=CC=C12)C(=O)O | C13H15NO2
